US08026195B2
20 ml (0.29 mol) of cyclopropylamine was added to a solution of 4.9 g (29.0 mmol) of 4-(chloromethyl)-thiazole hydrochloride in 45 ml ethanol and 45 ml of saturated aqueous sodium hydrogen carbonate. The reaction mixture was stirred for 20 hrs at ambient temperature and extracted with ethyl acetate (3×100 ml). The combined organic layers were dried over magnesium sulphate and concentrated in vacuum. Column chromatography (gradient n-pentane/ethyl acetate) yielded 1.5 g (32% yield) of N-(1,3-thiazol-4-ylmethyl)cyclopropylamine. At ambient temperature a solution of 0.28 g (1.4 mmol) of 3-(difluoromethyl)-1-methyl-pyrazole-4-carbonyl chloride in 2 ml of tetrahydrofurane was added drop wise to a solution of 0.20 g (1.3 mmol) of N-(1,3-thiazol-4-ylmethyl)-cyclopropylamine and 0.6 ml triethylamine in 4 ml tetrahydrofurane. The reaction mixture was stirred for 16 hrs at ambient temperature and quenched with water. The watery layer was extracted three times with ethyl acetate (3×20 ml), the combined organic layers were dried over magnesium sulphate and concentrated in vacuum. Column chromatography (gradient n-pentane/ethyl acetate) yielded 0.13 mg (51% yield) of N-cyclopropyl-N-(1,3-thiazol-4-yl-methyl)-1-methyl-3-difluoromethyl-pyrazole-4-carboxamide (M+1=313).

reactant | 3-(difluoromethyl)-1-methyl-pyrazole-4-carbonyl chloride | 1.4 mmol, 0.28 g | FC(C1=NN(C=C1C(=O)Cl)C)F | C6H5ClF2N2O
reactant | N-(1,3-thiazol-4-ylmethyl)-cyclopropylamine | 1.3 mmol, 0.20 g | S1C=NC(=C1)CNC1CC1 | C7H10N2S
reactant | triethylamine | 0.6 ml | C(C)N(CC)CC | C6H15N
reactant | n-pentane ethyl acetate | CCCCC.C(C)(=O)OCC
solvent | tetrahydrofurane | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 4 ml | O1CCCC1 | C4H8O
product | N-cyclopropyl-N-(1,3-thiazol-4-yl-methyl)-1-methyl-3-difluoromethyl-pyrazole-4-carboxamide | 0.13 mg, 51% yield | C1(CC1)N(C(=O)C=1C(=NN(C1)C)C(F)F)CC=1N=CSC1 | C13H14F2N4OS
